US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(2-hydroxyethylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg), ethanolamine (35 mg) and triethylamine (200 mg) were added to pyridine (600 mg), and the mixture was stirred at 50° C. for 15.5 hours. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (3 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Ethanol (1 ml) was added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (188 mg) as a pale brown powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | ethanolamine | 35 mg | C(O)CN | C2H7NO
reactant | triethylamine | 200 mg | C(C)N(CC)CC | C6H15N
solvent | pyridine | 600 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(2-hydroxyethylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 188 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NCCO)F)=O)C(=O)O)F)F | C18H13ClF3N3O4
